US08809331B2
To 2,4-dichloro-5-(trifluoromethyl)pyrimidine (1.25 g, 5.8 mmol) in methanol (4 mL) at 0° C. was added cyclopropylamine (0.69 mL, 10 mmol). The mixture was allowed to stir at RT for 4 h. and then DCM (20 mL) and water (20 mL) were added. The mixture was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-100% DCM in iso-hexane) gave 2-chloro-N-cyclopropyl-5-(trifluoromethyl)pyrimidin-4-amine (472 mg, 34%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=238 at 3.64 min. 1H NMR (400 MHz, CDCl3): δ 8.27 (d, J=1.1 Hz, 1H), 5.56 (br s, 1H), 3.03-2.93 (m, 1H), 0.99-0.89 (m, 2H), 0.65-0.60 (m, 2H).

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 5.8 mmol, 1.25 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | cyclopropylamine | 10 mmol, 0.69 mL | C1(CC1)N | C3H7N
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | water | 20 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | 2-chloro-N-cyclopropyl-5-(trifluoromethyl)pyrimidin-4-amine | 472 mg, 34% | ClC1=NC=C(C(=N1)NC1CC1)C(F)(F)F | C8H7ClF3N3
